US04410716
A mixture of 25 ml of 30% aqueous ammonia and 12.5 ml of water was added to 17.5 g of active zinc powder. The mixture was heated at 80° C. with stirring. A saturated aqueous solution of copper sulfate (0.8 ml) was added, and then, a solution of 3.0 g of 4-t-butyl-2-(4-carboxymethylbenzoyl)phenylacetic acid in 25 ml of ethanol was added dropwise. The mixture was stirred at the same temperature for 30 hours. After the reaction, the reaction mixture was cooled, and the insoluble matter was separated by filtration. The filtrate was acidified with conc. hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water and then with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The ethyl acetate was distilled off. Recrystallization of the residue from a mixture of ethyl acetate and n-hexane afforded 1.7 g of 4-t-butyl-2-(4-carboxymethylbenzyl)phenylacetic acid as colorless needle-like crystals having a melting point of 138° to 139° C.

reactant | ammonia | 25 ml | N | H3N
reactant | water | 12.5 ml | O | H2O
reactant | 4-t-butyl-2-(4-carboxymethylbenzoyl)phenylacetic acid | 3.0 g | C(C)(C)(C)C1=CC(=C(C=C1)CC(=O)O)C(C1=CC=C(C=C1)CC(=O)O)=O | C21H22O5
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | zinc | 17.5 g | [Zn] | Zn
catalyst | copper sulfate | 0.8 ml | S(=O)(=O)([O-])[O-].[Cu+2]
product | 4-t-butyl-2-(4-carboxymethylbenzyl)phenylacetic acid | 1.7 g | C(C)(C)(C)C1=CC(=C(C=C1)CC(=O)O)CC1=CC=C(C=C1)CC(=O)O | C21H24O4
